US05776656
As in Synthesis Example 1 but using 1.73 grams of 1,2-dicyano-3-nitrobenzene and 3.40 grams of 2-t-butyl-6-methylcyclohexanol, there was obtained 1.48 grams of 1,2-dicyano-3-(2-t-butyl-6-methylcyclohexyloxy)benzene (yield of 50%). Next, as in Synthesis Example 1 but using 1.48 grams of this benzene compound and 0.42 gram of BBr3, there was obtained 1.1 grams of the end product (yield 68%, mp 154°-155° C.).

reactant | 1,2-dicyano-3-nitrobenzene | 1.73 grams | C(#N)C1=C(C(=CC=C1)[N+](=O)[O-])C#N | C8H3N3O2
reactant | 2-t-butyl-6-methylcyclohexanol | 3.40 grams | C(C)(C)(C)C1C(C(CCC1)C)O | C11H22O
product | 1,2-dicyano-3-(2-t-butyl-6-methylcyclohexyloxy)benzene | 1.48 grams, yield of 50% | C(#N)C1=C(C(=CC=C1)OC1C(CCCC1C)C(C)(C)C)C#N | C19H24N2O
